US08431607B2
A screw-capped tube equipped with a magnetic stir bar is charged with m-anisaldehyde (3.04 mL, 25 mmol), methyl acrylate (4.50 mL, 50 mmol), (PPh3)3RhCl (1.16 g, 1.25 mmol), 2-amino-3-picoline (1.06 mL, 10 mmol), and benzoic acid (702 mg, 5 mmol). The reaction mixture is stirred at 130° C. for 3 days. After cooling to room temperature, the resulting mixture is dissolved in diethyl ether and ished with water and brine. The organic phase is then dried over Na2SO4 and concentrated. The residue is then purified on silica gel (10-30% ethyl acetate in hexane) to give methyl 4-(3-methoxyphenyl)-4-oxobutanoate (5.02 g, 90%) as a clear reddish brown oil. 1H NMR (CDCl3, 400 MHz) δ 7.57 (d, J=9.5 Hz, 1H), 7.51 (dd, J=3.0, 2.0 Hz, 1H), 7.38 (t, J=10.0 Hz, 1H), 7.12 (ddd, J=10.5, 3.5, 1.0 Hz, 1H), 3.85 (s, 3H), 3.71 (s, 3H), 3.32 (t, J=8.5 Hz, 2H), 2.77 (t, J=8.5 Hz, 2H).

reactant | m-anisaldehyde | 25 mmol, 3.04 mL | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | methyl acrylate | 50 mmol, 4.50 mL | C(C=C)(=O)OC | C4H6O2
reactant | 2-amino-3-picoline | 10 mmol, 1.06 mL | NC1=NC=CC=C1C | C6H8N2
reactant | benzoic acid | 5 mmol, 702 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | methyl 4-(3-methoxyphenyl)-4-oxobutanoate | 5.02 g, 90% | COC=1C=C(C=CC1)C(CCC(=O)OC)=O | C12H14O4
